US06228868B1
methyl 4-amino-2-chloro-5-iodo-benzoate
A solution of methyl 4-amino-2-chloro-benzoate (1.14 g, 6.16 mmol) in dichloromethane (30 mL) and methanol (15 mL) was treated sequentially with calcium carbonate (1.85 g, 18.5 mmol) and benzyl trimethylammonium dichloroiodate (3.22 g, 9.24 mmol), stirred for 18 hours, treated with additional benzyl trimethylammonium dichloroiodate (2 g, 5.75 mmol), stirred for 3 days, filtered into a separatory funnel, washed with saturated NaHSO3, dried (MgSO4), filtered, and concentrated. The concentrate was recrystallized from ethyl acetate to provide the majority of the desired product. The filtrate was concentrated, and the concentrate was purified on silica gel with a gradient of from 10% to 20% ethyl acetate/hexanes to provide a total of 1.3 g of the desired product.

reactant | methyl 4-amino-2-chloro-benzoate | 6.16 mmol, 1.14 g | NC1=CC(=C(C(=O)OC)C=C1)Cl | C8H8ClNO2
reactant | calcium carbonate | 18.5 mmol, 1.85 g | C([O-])([O-])=O.[Ca+2]
reactant | benzyl trimethylammonium dichloroiodate | 9.24 mmol, 3.22 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | benzyl trimethylammonium dichloroiodate | 5.75 mmol, 2 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | methanol | 15 mL | CO | CH4O
product | methyl 4-amino-2-chloro-5-iodo-benzoate | NC1=CC(=C(C(=O)OC)C=C1I)Cl | C8H7ClINO2
